US06987118B2
2-(Isoquinolin-7-yloxy)-2-methyl-propionic acid ethyl ester
7-Hydroxyisoquinoline (500 mg, 3.4 mmol), ethyl 2-bromoisobutyrate (3 g, 15 mmol) and potassium carbonate (2.1 g, 15 mmol) were mixed in 7 ml of anhydrous DMF. The reaction was heated to 95° C. under N2 for 18 hrs. The reaction was concentrated under reduced pressure and purified by flash column chromatography (33% EtOAc/Hexanes) to yield 470 mg (53%) of the title product of this preparation as a yellow oil.

reactant | 7-Hydroxyisoquinoline | 3.4 mmol, 500 mg | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
reactant | ethyl 2-bromoisobutyrate | 15 mmol, 3 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 2-(Isoquinolin-7-yloxy)-2-methyl-propionic acid ethyl ester | 470 mg, 53% | C(C)OC(C(C)(C)OC1=CC=C2C=CN=CC2=C1)=O | C15H17NO3
